US08648099B2
b) 5-Cyclopropyl-6-cyclopropylmethoxy-nicotinic acid N′-(4-fluoro-phenyl)-N′-methyl-hydrazide
In a 10 mL two-necked flask, the above prepared 5-cyclopropyl-6-cyclopropylmethoxy-nicotinic acid (70 mg, 300 μmol, Eq: 1.00) was combined with tetrahydrofuran (3 mL) and DMF (1 mL) to give a colorless solution. TBTU (145 mg, 450 μmol, Eq: 1.5) and N,N-diisopropylethylamine (194 mg, 262 μl, 1.5 mmol, Eq: 5) were added and the reaction mixture stirred for 10 min at rt, before 1-(4-fluorophenyl)-1-methylhydrazine hydrochloride (63.6 mg, 360 μmol, Eq: 1.2, CAN 1978-54-7) was added and the reaction mixture kept overnight at rt. The reaction mixture was quenched with 1 M HCl (10 mL) and extracted with EtOAc (2×20 mL). The organic layers were washed with 1 M NaOH, then with H2O/NaCl solution, combined, dried over Na2SO4 and concentrated in vacuo. The crude material was eventually purified by flash chromatography (silica gel, 20 g, 15% to 40% EtOAc in heptane) to provide 104 mg of the title product as colorless oil; MS (EI) 354.6 (M−H)−.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-nicotinic acid | 300 μmol, 70 mg | C1(CC1)C=1C(=NC=C(C(=O)O)C1)OCC1CC1 | C13H15NO3
reactant | TBTU | 450 μmol, 145 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.5 mmol, 262 μl, 194 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(4-fluorophenyl)-1-methylhydrazine hydrochloride | 360 μmol, 63.6 mg | Cl.FC1=CC=C(C=C1)N(N)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 5-Cyclopropyl-6-cyclopropylmethoxy-nicotinic acid N′-(4-fluoro-phenyl)-N′-methyl-hydrazide | 104 mg | FC1=CC=C(C=C1)N(NC(C1=CN=C(C(=C1)C1CC1)OCC1CC1)=O)C | C20H22FN3O2
